US04482751
A large round-bottom flask was obtained and into this flask was charged 150 ml (102.4 g) n-octane having 99% purity, 84.6 g para-isopropylbenzyl chloride and 111.5 g triphenylphosphine. The reaction solution was heated to 95°-100° C. and maintained at that temperature for approximately 29 hours. At that time the heat was turned off and the reaction solution was cooled and charged with 197.5 methyl alcohol to dissolve the suspended solids. The methanol solution was then washed twice with 50 ml of octane each time. The octane was decanted off, leaving 383.7 g of a methyl alcohol solution of 45% para-isopropylbenzyl triphenylphosphonium chloride in methanol.

reactant | n-octane | 150 ml, 102.4 g | CCCCCCCC | C8H18
reactant | para-isopropylbenzyl chloride | 84.6 g | C(C)(C)C1=CC=C(CCl)C=C1 | C10H13Cl
reactant | triphenylphosphine | 111.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methyl alcohol | CO | CH4O
product | para-isopropylbenzyl triphenylphosphonium chloride | 45% | [Cl-].C(C)(C)C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C28H28P.ClH/c1-23(2)25-20-18-24(19-21-25)22-29(26-12-6-3-7-13-26,27-14-8-4-9-15-27)28-16-10-5-11-17-28;/h3-21,23H,22H2,1-2H3;1H/q+1;/p-1
